US04677100
(A) Benzhydryl 7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate 1-oxide
2.5 g (2.97 mmol) of benzhydryl 7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate was dissolved in 25 ml of benzene, and 640 mg (3.27 mmol) of m-chloroperbenzoic acid was added under cooling with ice. The mixture was stirred at room temperature for 1 hour. The reaction solution was poured into ice water, and extracted with ethyl acetate. The extracted solution was washed with a 5% sodium bisulfite aqueous solution and with a saturated sodium chloride aqueous solution, then dried over anhydrous sodium sulfate and concentrated under reduced pressure, whereby the above identified compound was obtained as a powdery substance.

reactant | benzhydryl 7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 2.97 mmol, 2.5 g | CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H38ClN5O5S2
reactant | m-chloroperbenzoic acid | 3.27 mmol, 640 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | Benzhydryl 7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate 1-oxide | CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2=O)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H38ClN5O6S2
